US07034056B2
To a solution of 4-dimethylamino-2-(4-pyridin-4-yl-phenyl)-butyronitrile (680 mg, 2.56 mmol) in THF (5 mL) was added LiAlH4 (1M in THF, 26 mL, 26 mmol) and the mixture was stirred at room temperature for 16 h. TLC (10% MeOH/CH2Cl2) showed no starting material left and a new low Rf spot was formed. The mixture was treated with 1.74 mL of H2O, followed by 3.48 mL of 1N aqueous NaOH, and then 5.2 mL of H2O. After 30 min of stirring, the mixture was filtered and the filtrate was dried over Na2SO4 and concentrated to give 3-dimethylamino-1-(4-pyridin-4-yl-phenyl)-propan-1-ol as a yellowish solid, 300 mg (46%). 1H NMR (300 MHz, CDCl3): δ 8.75 (dd, 2H), 7.74 (m, 2H), 7.62 (m, 4H), 5.12 (dd, 1H), 2.82 (m, 1H), 2.64 (m, 1H), 2.44 (s, 6H), 1.97 (m, 2H).

reactant | 4-dimethylamino-2-(4-pyridin-4-yl-phenyl)-butyronitrile | 2.56 mmol, 680 mg | CN(CCC(C#N)C1=CC=C(C=C1)C1=CC=NC=C1)C | C17H19N3
reactant | LiAlH4 | 26 mmol, 1M, 26 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
reactant | NaOH | 1N, 3.48 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 5.2 mL | O | H2O
solvent | H2O | 1.74 mL | O | H2O
product | 3-dimethylamino-1-(4-pyridin-4-yl-phenyl)-propan-1-ol | CN(CCC(O)C1=CC=C(C=C1)C1=CC=NC=C1)C | C16H20N2O
